US04436662
In one portion, 4.0 g (11.7 mmol) of 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo-[3,4-d][2]benzazepine were added to an ice-cooled solution of 1.6 g (14.2 mmol) of potassium t-butoxide in 60 ml of dry dimethylformamide. After stirring at 0° C. for 15 minutes, 1.4 g (15.0 mmol) of 2-chloroacetamide were added, and the resulting solution was stirred for 5 minutes. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to a red residue. Purification of the residue by column chromatography (silica gel, 100 g; eluent, 50% ether in tetrahydrofuran) gave 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetamide as a yellow solid. Recrystallization from ethyl acetate gave colorless needles, mp 142°-145° C.

reactant | 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo-[3,4-d][2]benzazepine | 11.7 mmol, 4.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3C)C=C1 | C19H14Cl2N2
reactant | potassium t-butoxide | 14.2 mmol, 1.6 g | CC(C)([O-])C.[K+]
reactant | 2-chloroacetamide | 15.0 mmol, 1.4 g | ClCC(=O)N | C2H4ClNO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-acetamide | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CN(C3C)CC(=O)N)C=C1 | C21H17Cl2N3O
